US06268387B1
3-(3,4-Dichloro-benzenesulfonylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 121 using 3,4-dichlorobenzenesulfonyl chloride (2.45 g, 10 mmol), 3-amino-4-methoxy-N-phenyl-benzamide (2.43 g, 10 mmol) and pyridine (25 mL) to afford the product (4.183 g); m.p. 191-193° C. after trituration in hexanes/ethyl acetate (1:1).

reactant | 3,4-dichlorobenzenesulfonyl chloride | 10 mmol, 2.45 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 10 mmol, 2.43 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3,4-Dichloro-benzenesulfonylamino)-4-methoxy-N-phenyl-benzamide | 4.183 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C20H16Cl2N2O4S
